US08633189B2
To a solution of ethyl 2-(2-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-4-cyclopentyl-5-(methoxycarbonyloxy)phenylcarbamoyl)-6-cyano-2H-benzo[b][1,4]oxazine-4(3H)-carboxylate (15 mg, 0.022 mmol) in dichloromethane (500 μL) was added TFA (3 μL, 0.04 mmol) and the reaction was stirred overnight at room temperature. The reaction was quenched with aqueous NaHCO3 and the layers separated. The aqueous layer was extracted with dichloromethane, dried over MgSO4, filtered and concentrated. The crude product was dissolved in methanol and 1 M NaOH and the reaction was heated at reflux for 5 min. The reaction was quenched with 1 M HCl and the aqueous layer was extracted with dichloromethane. The organic layer was dried over MgSO4, filtered and concentrated. Purification by HPLC (10-99% CH3CN/0.05% TFA) provided 6-cyano-N-[4-cyclopentyl-5-hydroxy-2-(piperazin-1-ylmethyl)phenyl]-3,4-dihydro-2H-1,4-benzoxazine-2-carboxamide (3 mg, 24% yield). LC/MS m/z 462.5 [M+H]+.

reactant | ethyl 2-(2-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)-4-cyclopentyl-5-(methoxycarbonyloxy)phenylcarbamoyl)-6-cyano-2H-benzo[b][1,4]oxazine-4(3H)-carboxylate | 0.022 mmol, 15 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(C=C(C(=C1)C1CCCC1)OC(=O)OC)NC(=O)C1CN(C2=C(O1)C=CC(=C2)C#N)C(=O)OCC | C36H45N5O9
reactant | TFA | 0.04 mmol, 3 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 500 μL | ClCCl | CH2Cl2
product | 6-cyano-N-[4-cyclopentyl-5-hydroxy-2-(piperazin-1-ylmethyl)phenyl]-3,4-dihydro-2H-1,4-benzoxazine-2-carboxamide | 3 mg, 24% yield | C(#N)C=1C=CC2=C(NCC(O2)C(=O)NC2=C(C=C(C(=C2)O)C2CCCC2)CN2CCNCC2)C1 | C26H31N5O3
